US07196111B2
To an ice cold suspension of 0.92 g (23 mmol) of sodium hydride (NaH 60% dispersion in mineral oil) (previously washed with hexane and dried under vacuum) in 25 mL of 1,2-dimethoxyethane (DME) was added 0.9 g (5.76 mmol) of methyl cyclohexylacetate, and the resulting mixture was stirred at 0° C. for 20 min. Then 1.2 g (8.56 mmol) of ethyl 2-furoate was added, and the reaction mixture was heated at reflux overnight. The mixture was then cooled to 0° C., quenched by the addition of 1 M HCl solution to pH=3, and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated to give a brown oil which was chromatographed on silica gel (Biotage; 10% hexane in dichloromethane) to afford 1.1 g (76% yield) of desired 2-cyclohexyl-3-furan-2-yl-3-oxo-propionic acid methyl ester as indicated by 1H NMR.

reactant | sodium hydride | 23 mmol, 0.92 g | [H-].[Na+]
reactant | methyl cyclohexylacetate | 5.76 mmol, 0.9 g | C1(CCCCC1)CC(=O)OC | C9H16O2
reactant | ethyl 2-furoate | 8.56 mmol, 1.2 g | O1C(=CC=C1)C(=O)OCC | C7H8O3
product | 2-cyclohexyl-3-furan-2-yl-3-oxo-propionic acid methyl ester | 1.1 g, 76% yield | COC(C(C(=O)C=1OC=CC1)C1CCCCC1)=O | C14H18O4
